US08193202B2
A. Preparation of tert-butyl 4-(3-(4-fluorophenoxy)phenylcarbamoyl)-4-methylpiperidine-1-carboxylate.
1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid (243 mg, 1.0 mmol), 3-(4-fluorophenoxy)aniline (203 mg, 1.0 mmol), DCC (206 mg, 1.0 mmol), and HOAt (138 mg, 1.01 mmol) were combined in EtOAc (50 mL) and DMF (5 mL). The reaction mixture was heated at 80° C. for 20 hours. Most of the EtOAc was evaporated, resulting in precipitation of a solid, which was removed by filtration. The filtrate was diluted with EtOAc, washed with 1 N aq. HCl, water, and brine, dried, and concentrated under vacuum to give the title compound. MS (ES+) [M+H]+=429.

reactant | 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid | 1.0 mmol, 243 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C | C12H21NO4
reactant | 3-(4-fluorophenoxy)aniline | 1.0 mmol, 203 mg | FC1=CC=C(OC=2C=C(N)C=CC2)C=C1 | C12H10FNO
reactant | DCC | 1.0 mmol, 206 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOAt | 1.01 mmol, 138 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(3-(4-fluorophenoxy)phenylcarbamoyl)-4-methylpiperidine-1-carboxylate | FC1=CC=C(OC=2C=C(C=CC2)NC(=O)C2(CCN(CC2)C(=O)OC(C)(C)C)C)C=C1 | C24H29FN2O4
